US09029359B2
(R)-2-(3,5-dichlorophenylamino)-N-(1-(6-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-yl)acetamide
The title compound of Example 146 was prepared in similar manner as described in Example 134 except the key intermediate (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate was replaced with (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate and the 4-amino-6-chloropyrimidine-5-carbonitrile was substituted for 4-chloro-5H-pyrrolo[2,3-d]pyrimidin-6(7H)-one. 1H NMR (300 MHz, DMSO-d6) δ 10.99 (s, 1H), 8.17 (s, 1H), 8.03 (d, J=7.18 Hz, 1H), 6.62 (t, J=1.70 Hz, 1H), 6.54 (d, J=1.89 Hz, 2H), 4.13 (d, J=12.46 Hz, 3H), 3.69 (dd, J=11.33, 15.86 Hz, 10H), 2.84-3.22 (m, 2H), 1.82 (d, J=3.40 Hz, 1H), 1.66-1.76 (m, 1H), 1.43-1.63 (m, 2H). EIMS (m/z): calcd. for C19H20Cl2N6O (M+1H) 435. found 435.

reactant | (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)F)N[C@@H](C(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1CC1 | C21H29ClFN3O3
reactant | (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H25Cl2N3O3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | 4-chloro-5H-pyrrolo[2,3-d]pyrimidin-6(7H)-one | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
product | (R)-2-(3,5-dichlorophenylamino)-N-(1-(6-oxo-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-yl)acetamide | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C=1C2=C(N=CN1)NC(C2)=O | C19H20Cl2N6O2
